US08957203B2
To a solution of N,N-diethyl-4-methoxy-2-methylbenzamide (1.00 g, 4.52 mmol) in THF (9 ml) at −78° C. was added dropwise tert-butyllithium 1.7 M in pentane (3.19 ml, 5.42 mmol) and the solution was stirred for 0.5 h before addition of 3-fluoro-4-methoxybenzonitrile (0.683 g, 4.52 mmol) in THF (9 ml). The resulting solution was warmed to rt and stirred for 16 h. The reaction mixture was quenched with water, neutralized with 1 N HCl. The precipitated solid was collected and washed with water to give 3-(3-fluoro-4-methoxyphenyl)-6-methoxyisoquinolin-1-ol (926 mg, 69% yield) as a solid after drying. MS: MS m/z 300.1 (M++1).

reactant | N,N-diethyl-4-methoxy-2-methylbenzamide | 4.52 mmol, 1.00 g | C(C)N(C(C1=C(C=C(C=C1)OC)C)=O)CC | C13H19NO2
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | pentane | 5.42 mmol, 3.19 ml | CCCCC | C5H12
reactant | 3-fluoro-4-methoxybenzonitrile | 4.52 mmol, 0.683 g | FC=1C=C(C#N)C=CC1OC | C8H6FNO
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | 3-(3-fluoro-4-methoxyphenyl)-6-methoxyisoquinolin-1-ol | 926 mg, 69% yield | FC=1C=C(C=CC1OC)C=1N=C(C2=CC=C(C=C2C1)OC)O | C17H14FNO3
